US07067517B2
Methyl-phenyl-carbamic acid 1-(methyl-phenyl-carbamoyl)-1H-benzimidazol-2-yl ester
The title product was prepared from 2-hydroxybenzimidazole and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (14%, white crystals). HPLC-MS: m/z=401.2 (M+1); Rt: 3.88 min, purity: 83%.

reactant | 2-hydroxybenzimidazole | OC=1NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 1-(methyl-phenyl-carbamoyl)-1H-benzimidazol-2-yl ester | CN(C(=O)N1C(=NC2=C1C=CC=C2)OC(N(C2=CC=CC=C2)C)=O)C2=CC=CC=C2 | C23H20N4O3
